US07915424B2
5-(3-Acetylphenylethynyl)-nicotinonitrile
Prepare according to the general procedure outlined in EXAMPLE 72 using 3′-iodoacetophenone (1.29 g, 5.24 mmol) and 5-trimethylsilanylethynyl-nicotinonitrile (1.0 g, 5.0 mmol), (prepared as described in PREPARATION 3), to give the title compound (600 mg, 49%).

reactant | 3′-iodoacetophenone | 5.24 mmol, 1.29 g | IC=1C=C(C=CC1)C(C)=O | C8H7IO
reactant | 5-trimethylsilanylethynyl-nicotinonitrile | 5.0 mmol, 1.0 g | C[Si](C)(C)C#CC=1C=NC=C(C#N)C1 | C11H12N2Si
product | 5-(3-Acetylphenylethynyl)-nicotinonitrile | 600 mg, 49% | C(C)(=O)C=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1 | C16H10N2O
